US04349684
7-(3-Ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid
The product is produced as described in example 18 from 12.3 g of 7-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid ethyl ester and 1.16 g of NaOH in 60 cc. of ethanol. Further purification by chromatography on silicic acid gel using chloroform as eluant.

reactant | 7-(3-ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid ethyl ester | 12.3 g | C(C)OC(CCCCCCN1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CC)=O)=O | C26H32N2O3
reactant | NaOH | 1.16 g | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 7-(3-Ethyl-4.5-diphenyl-2-oxo-4-imidazolin-1-yl) enanthic acid | C(C)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC(=O)O)=O | C24H28N2O3
